US04137408
From 3.8 g. of 6-[4-[(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic acid and 1.34 g. of N-hydroxysuccinimide in 60 ml. of dimethylformamide, and 2.56 g. of N,N'-dicyclohexylcarbodiimide in 5 ml. of dimethylformamide, following the procedure of a) above, there is obtained 6-[4-[(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic acid, 2,5-dioxo-1-pyrrolidinyl ester; m.p. 203.5°-205° C.

reactant | 6-[4-[(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic acid | OCCNS(=O)(=O)C1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C14H14N2O6S
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[4-[(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic acid, 2,5-dioxo-1-pyrrolidinyl ester | OCCNS(=O)(=O)C1=CC=C(C=C1)C=1NC(C(C(=O)ON2C(CCC2=O)=O)=CC1)=O | C18H17N3O8S
